US04618677
The procedure described in Example 2 was followed, using 1.2 g of phenyl isocyanate, 4.0 g of 3-[4-(3-phenylpropyl)piperazin-1-yl]propanethiol dihydrochloride, 2.2 g of triethylamine and 50 ml of methylene chloride, to give 2.1 g (41% of theory) of N-phenyl-S-{3-[4-(3-phenylpropyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride monohydrate as a white crystalline solid, M.p. 240°-243° C.

reactant | phenyl isocyanate | 1.2 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-[4-(3-phenylpropyl)piperazin-1-yl]propanethiol dihydrochloride | 4.0 g | Cl.Cl.C1(=CC=CC=C1)CCCN1CCN(CC1)CCCS
reactant | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-phenyl-S-{3-[4-(3-phenylpropyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride monohydrate | 2.1 g, 41% | O.Cl.Cl.C1(=CC=CC=C1)NC(O)=SCCCN1CCN(CC1)CCCC1=CC=CC=C1 | InChI=1S/C23H33N3OS.2ClH.H2O/c27-23(24-22-12-5-2-6-13-22)28-20-8-15-26-18-16-25(17-19-26)14-7-11-21-9-3-1-4-10-21;;;/h1-6,9-10,12-13,24,27-28H,7-8,11,14-20H2;2*1H;1H2
